US07196104B2
Preparation AU: 2-Amino-6-(piperidin-1-ylmethyl)pyridine
To a solution of 2-bromo-6-(piperidylmethyl)pyridine (5.21 g, 20 mmol) in IpOH (30 mL) in a sealed tube at RT, a catalytic amount of Cu (100 mg) and 28–30% NH4OH (35 mL) were added. The stirred suspension was heated to 95° C. for 40 h. After cooling to RT, the reaction mixture was diluted with H2O (100 mL) and extracted with EtOAc (4×80 mL). The organic layers were combined, then washed with H2O (50 mL) followed by brine (50 mL). The organic layer was separated, dried over Na2SO4, filtered and concentrated under reduced pressure to yield the title compound as a dark yellow oil. This was used as crude. MS m/z: 193 (M+H)+.

reactant | 2-bromo-6-(piperidylmethyl)pyridine | 20 mmol, 5.21 g | BrC1=NC(=CC=C1)CN1CCCCC1 | C11H15BrN2
reactant | NH4OH | 35 mL | [NH4+].[OH-]
solvent | H2O | 100 mL | O | H2O
product | 2-Amino-6-(piperidin-1-ylmethyl)pyridine | NC1=NC(=CC=C1)CN1CCCCC1 | C11H17N3
